US05905071
13a N-[2-(N-Carbobenzoxy-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-dodecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-dodecanamide and N-carbobenzoxy-glycine.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-dodecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C38H75N3O6
reactant | N-carbobenzoxy-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
product | N-[2-(N-Carbobenzoxy-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-dodecanamide | C(=O)(OCC1=CC=CC=C1)NCC(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C48H84N4O9
